US08461209B2
(1) triethyl 2-[4-(trifluoromethoxy)phenyl]ethane-1,1,1-tricarboxylate
To a solution of triethyl methanetricarboxylate (4.55 g) in DMF (40 mL) were added 4-(trifluoromethoxy)benzyl bromide (5.00 g), potassium iodide in catalytic amount and potassium carbonate (4.07 g), and the mixture was stirred at room temperature for 3 hr. Ethyl acetate (200 mL) and water (100 mL) were added to extract the reaction mixture. The extract was washed sequentially with water and brine, and concentrated under reduced pressure to give the title compound (7.97 g) as an oil.

reactant | triethyl methanetricarboxylate | 4.55 g | C(C(=O)OCC)(C(=O)OCC)C(=O)OCC | C10H16O6
reactant | 4-(trifluoromethoxy)benzyl bromide | 5.00 g | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
reactant | potassium iodide | [I-].[K+]
reactant | potassium carbonate | 4.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | triethyl 2-[4-(trifluoromethoxy)phenyl]ethane-1,1,1-tricarboxylate | 7.97 g | FC(OC1=CC=C(C=C1)CC(C(=O)OCC)(C(=O)OCC)C(=O)OCC)(F)F | C18H21F3O7
